US07687627B2
(S)-N-{3-[4-(1,4-dioxa-9-aza-spiro[5.5]undec-9-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide
A mixture of (S)-N-{3-[4-(1-oxa-6-aza-spiro[2.5]oct-6-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide (0.275 mmol) ethylene glycol (0.330 mmol) and Catalytic amount of BF3.etharate in 10 ml tetrahydrofuran was stirred under reflux for 2 hours. The reaction mixture was evaporated to the dryness under vacuum. The residue obtained was purified on the silica gel column chromatography to provide title compound in 44% yield.

reactant | (S)-N-{3-[4-(1-oxa-6-aza-spiro[2.5]oct-6-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide | 0.275 mmol | O1CC12CCN(CC2)C2=C(C=C(C=C2)N2C(O[C@H](C2)CNC(C)=O)=O)F | C18H22FN3O4
reactant | BF3 | B(F)(F)F | BF3
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | (S)-N-{3-[4-(1,4-dioxa-9-aza-spiro[5.5]undec-9-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide | 44% yield | O1CCOCC12CCN(CC2)C2=C(C=C(C=C2)N2C(O[C@H](C2)CNC(C)=O)=O)F | C20H26FN3O5
